US06015817
Step 6: Preparation of 5-(1-(4-cyanobenzyl)-5-imidazolylmethyl)-4,5,6,7-tetrahydrothieno[3,2-]pyridine
To a solution of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride (Halczenko and Hartman; Synthetic Commun., 1996, 26, 1363; 0.439 g, 2.5 mmol) in CHCl2CHCl2 (15 mL) was added 1-(4-cyanobenzyl)-5-imidazole carboxaldehyde (0.58 g, 2.75 mmol), 4 Å sieves and triethylamine (0.35 mL, 2.5 mmol) followed by NaBH(OAc)3 (1.59 g, 7.5 mmol). The mixture was stirred at room temperature for 16 h., the mixture was diluted with EtOAc, filtered through celite, washed with brine, dried (Na2SO4) and concentrated. The residue was stirred in 2N HCl (50 mL) for 2 h. then extracted with ether. The aqueous layer was basified with 40% NaOH solution and extracted 3× CH2Cl2 which was then washed with brine, dried (Na2SO4) and the solvent evaporated in vacuo. Chromatography (silica gel; 2.5% MeOH in CHCl3) followed by crystallization from ether afforded the title compound as a white solid.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 2.5 mmol, 0.439 g | Cl.S1C=CC=2CNCCC21
reactant | 1-(4-cyanobenzyl)-5-imidazole carboxaldehyde | 2.75 mmol, 0.58 g | C(#N)C1=CC=C(CN2C=NC=C2C=O)C=C1 | C12H9N3O
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 7.5 mmol, 1.59 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CHCl2CHCl2 | 15 mL | C(Cl)(Cl)C(Cl)Cl | C2H2Cl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(1-(4-cyanobenzyl)-5-imidazolylmethyl)-4,5,6,7-tetrahydrothieno[3,2-]pyridine | C(#N)C1=CC=C(CN2C=NC=C2CC2CNC3=C(C2)C=CS3)C=C1 | C19H18N4S
